US07071185B2
Step 3—Cis and Trans-2,3,4,4a,9,9a,-hexahydroacridin-10(1H)-ylacetonitrile
The title compounds were prepared according to the procedure of Example 1 step 3 except that Cis and Trans-1,2,3,4,4a,9,9a,10-octahydroacridine were used instead of Cis and Trans 2,3,3a,4,9,9a-Hexahydro-1H-cyclopenta[b]quinoline, respectively.

reactant | Trans-1,2,3,4,4a,9,9a,10-octahydroacridine | C1CCC[C@@H]2NC3=CC=CC=C3C[C@@H]12 | C13H17N
reactant | Trans 2,3,3a,4,9,9a-Hexahydro-1H-cyclopenta[b]quinoline | C1CC[C@H]2NC=3C=CC=CC3C[C@@H]21 | C12H15N
product | Trans-2,3,4,4a,9,9a,-hexahydroacridin-10(1H)-ylacetonitrile | C1CCC[C@@H]2N(C3=CC=CC=C3C[C@@H]12)CC#N | C15H18N2
